US07166598B2
(2R)-1-[3,5-Bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[4-[(2S)-2-(methoxymethyl)morpholino]-2-butynyl]piperazine (0.05 g) in ethyl acetate (5 ml) was treated with 4N hydrogen chloride in ethyl acetate (1 ml) and the mixture was concentrated under reduced pressure. After the residue was triturated with a mixture of dichloromethane and diisopropyl ether, the organic solvents were removed under reduced pressure to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[4-[(2S)-2-(methoxymethyl)morpholino]-2-butynyl]piperazine dihydrochloride (0.05 g) as a powder.

reactant | (2R)-1-[3,5-Bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[4-[(2S)-2-(methoxymethyl)morpholino]-2-butynyl]piperazine | 0.05 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)O)C=C(C1)C(F)(F)F)(F)F | C31H35F6N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[4-[(2S)-2-(methoxymethyl)morpholino]-2-butynyl]piperazine dihydrochloride | 0.05 g | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)O)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H35F6N3O4.2ClH/c1-21-5-6-22(14-28(21)41)13-26-18-38(7-3-4-8-39-11-12-44-27(19-39)20-43-2)9-10-40(26)29(42)23-15-24(30(32,33)34)17-25(16-23)31(35,36)37;;/h5-6,14-17,26-27,41H,7-13,18-20H2,1-2H3;2*1H/t26-,27+;;/m1../s1
